US04349552
A solution of diphenylphosphoryl azide [N3.PO(OC6H5)2 ] (8.25 g.) in dry benzene (10 ml.) and a solution of triethylamine (3.03 g.) in dry benzene (10 ml.) were added to a solution of 3-propylthiopropionic acid (4.44 g.) in dry benzene (10 ml.) with stirring at ambient temperature. The clear solution was stirred for 30 minutes at 70°-80° C. to give a solution comprising 2-propylthioethyl isocyanate (I.R.: 2260 cm-1).

reactant | diphenylphosphoryl azide | 8.25 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
reactant | 3-propylthiopropionic acid | 4.44 g | C(CC)CCC(=S)O | C6H12OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-propylthioethyl isocyanate | C(CC)SCCN=C=O | C6H11NOS
